US06645968B2
N″-cyano-N-(2,6-difluorophenyl)guanidine
2,6-Difluoroaniline and sodium dicyanamide were procesed as described in Example 71A to provide the desired compound.

reactant | 2,6-Difluoroaniline | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | sodium dicyanamide | [N-](C#N)C#N.[Na+]
product | N″-cyano-N-(2,6-difluorophenyl)guanidine | C(#N)N=C(NC1=C(C=CC=C1F)F)N | C8H6F2N4
